US04797417
5-(2-Benzyloxyethyl)-3-methoxy-4-phenyl-2(5H)furanone (2.06 g) was dissolved in methanol (20 ml), and palladium black (20 mg) was added. Catalytic reduction was carried out in ordinary temperature and atmosphere. After completion of the reaction, the palladium black was filtered off and the methanol was distilled off under reduced pressure. The crude crystals thus obtained were recrystallized from chloroform to give 3-methoxy-5-(2-hydroxyethyl)-4-phenyl-2(5H)-furanone (1.345g).

reactant | 5-(2-Benzyloxyethyl)-3-methoxy-4-phenyl-2(5H)furanone | 2.06 g | C(C1=CC=CC=C1)OCCC1C(=C(C(O1)=O)OC)C1=CC=CC=C1 | C20H20O4
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium black | 20 mg | [Pd] | Pd
product | 3-methoxy-5-(2-hydroxyethyl)-4-phenyl-2(5H)-furanone | 1.345g | COC=1C(OC(C1C1=CC=CC=C1)CCO)=O | C13H14O4
